US06403595B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone
To a solution of N-(6-chloronaphthalene-2-sulfonyl)ethylenediamine hydrochloride (321 mg) and 4-(1H-imidazol-1-yl)benzaldehyde (172 mg) in methanol (10 ml) was added acetic acid (300 mg), and the mixture was stirred at room temperature for 1 hour. To the mixture was added, under ice-cooling, sodium triacetoxyborohydride (318 mg), and the mixture was stirred at room temperature for 5 hours. The reaction solution was concentrated, and the residue was dissolved in ethyl acetate. The solution was washed with sodium bicarbonate solution and brine, and dried, and to the solution was added triethylamine (700 mg) and then was added chloroacetyl chloride (300 mg). The mixture was stirred at room temperature for 30 minutes. The reaction solution was washed with sodium bicarbonate solution and brine, dried and concentrated. The residue was dissolved in DMF (20 ml), and to the solution was added potassium carbonate (150 mg). The mixture was stirred at 90° C. for 2 hours. The reaction solution was concentrated, and the residue was dissolved in ethyl acetate, washed with water and brine, dried and concentrated. The residue was purified with column chromatography (ethyl acetate) and recrystallized from ethyl acetate to give colorless crystals of the title compound (177 mg).

reactant | N-(6-chloronaphthalene-2-sulfonyl)ethylenediamine hydrochloride | 321 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)NCCN
reactant | 4-(1H-imidazol-1-yl)benzaldehyde | 172 mg | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | acetic acid | 300 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 318 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone | 177 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)CC1=CC=C(C=C1)N1C=NC=C1)=O | C24H21ClN4O3S
